US05942628
3-Methyl-2-sulfosuccinic acid sodium salt was prepared as follows. 20 g Methylsuccinic anhydride was dissolved in 40 g 1,2-dichloroethane. 15.4 g solid sulfur trioxide was melted and added in portions to 140 g 1,2-dichloroethane in an addition funnel. The sulfur trioxide solution was added slowly to the anhydride solution and stirred overnight. 50 mL water was then added, followed by 7 g sodium hydroxide dissolved in 50 mL water. The layers were separated and the 1,2-dichloroethane layer was again extracted with 50 mL water. The combined water layers were stripped to give 42.2 g yellowish solid. 1H-NMR (D2 0) 2.65-2.80 ppm m, 2.47-2.58 ppm m, 1.04 ppm d J=7.07 Hz.

reactant | Methylsuccinic anhydride | 20 g | CC1C(=O)OC(C1)=O | C5H6O3
reactant | sulfur trioxide | S(=O)(=O)=O | O3S
reactant | sodium hydroxide | 7 g | [OH-].[Na+]
solvent | 1,2-dichloroethane | 40 g | ClCCCl | C2H4Cl2
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
solvent | 1,2-dichloroethane | 140 g | ClCCCl | C2H4Cl2
product | 3-Methyl-2-sulfosuccinic acid sodium salt | [Na+].CC(C(C(=O)[O-])S(=O)(=O)O)C(=O)[O-].[Na+] | InChI=1S/C5H8O7S.2Na/c1-2(4(6)7)3(5(8)9)13(10,11)12;;/h2-3H,1H3,(H,6,7)(H,8,9)(H,10,11,12);;/q;2*+1/p-2
